US06127354
3-Phenylproylamine (10 ml, 70.0 mmol) was added at 0° C. dropwise to formic acid (80 ml). Acetic acid anhydride (30 ml) was added dropwise to the reaction mixture. After the addition the reaction mixture was warmed to room temperature. It was stirred for 2.5 h. It was cooled to 0° C. Water (30 ml) was added dropwise. The reaction mixture was warmed to room temperature. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (300 ml). The organic phase was washed with saturated sodium chloride solution (2×150 ml) and with saturated sodium hydrogen carbonate solution (200 ml). It was dried over magnesium sulfate. The solvent was removed in vacuo to furnish 5.82 g of N-(3-phenylpropyl)formamide, which was used without further purification.

reactant | 3-Phenylproylamine | 70.0 mmol, 10 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | formic acid | 80 ml | C(=O)O | CH2O2
reactant | Acetic acid anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | 30 ml | O | H2O
product | N-(3-phenylpropyl)formamide | 5.82 g | C1(=CC=CC=C1)CCCNC=O | C10H13NO
